US03947465
EXAMPLE 4. 5-phenyl-3-triethylsilyl-2-oxazolidinone
This example is performed in a similar way to example 1, with the 2-oxazolidinone and the trimethylchlorosilane being replaced by 5-phenyl-2-oxazolidinone (57.11 g; 0.35 mol) and triethylchlorosilane (63.3 g; 0.42 mol) respectively. Once the solvent has been evaporated off, the result is crude 5-phenyl-3-triethylsilyl-2-oxazolidinone with a virtually quantitative yield. By methanolysis 5-phenyl-2-oxazolidinone is obtained. Calculated: 69.33%; found: 69.05%.

reactant | 2-oxazolidinone | O1C(NCC1)=O | C3H5NO2
reactant | trimethylchlorosilane | C[Si](Cl)(C)C | C3H9ClSi
reactant | 5-phenyl-2-oxazolidinone | 0.35 mol, 57.11 g | C1(=CC=CC=C1)C1CNC(O1)=O | C9H9NO2
reactant | triethylchlorosilane | 0.42 mol, 63.3 g | C(C)[Si](Cl)(CC)CC | C6H15ClSi
product | 5-phenyl-3-triethylsilyl-2-oxazolidinone | quantitative yield | C1(=CC=CC=C1)C1CN(C(O1)=O)[Si](CC)(CC)CC | C15H23NO2Si
